US08053438B2
Sodium carbonate (6.48 mL, 12.95 mmol, 2.0 M in water) was added to a stirred mixture of 2,3-dichloropyrazine (1.28 mL, 8.63 mmol), 2-(5,6-dihydro-2H-pyran-3-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.91 g, 4.32 mmol), and tetrakis(triphenylphosphine)palladium (0.50 g, 0.43 mmol) in dioxane (16 mL) under an argon atmosphere. The reaction mixture was stirred at 80° C. for 16 h before being cooled to room temperature and diluted with EtOAc. The mixture was washed with water, washed with sat. sodium chloride, dried over magnesium sulfate, filtered, and concentrated in vacuo. The resulting crude product was purified by silica gel chromatography to give 2-chloro-3-(5,6-dihydro-2H-pyran-3-yl)pyrazine. [M+1]=197.0.

reactant | Sodium carbonate | 12.95 mmol, 2.0 M, 6.48 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2,3-dichloropyrazine | 8.63 mmol, 1.28 mL | ClC1=NC=CN=C1Cl | C4H2Cl2N2
reactant | 2-(5,6-dihydro-2H-pyran-3-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 4.32 mmol, 0.91 g | O1CC(=CCC1)B1OC(C(O1)(C)C)(C)C | C11H19BO3
solvent | dioxane | 16 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.43 mmol, 0.50 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-chloro-3-(5,6-dihydro-2H-pyran-3-yl)pyrazine | ClC1=NC=CN=C1C=1COCCC1 | C9H9ClN2O
